US07566707B2
2-[3-(tert.-butyloxycarbonylamino)-piperidin-1-yl]-3-(2-butyn-1-yl)-5-[(dibenzo[b,f][1,4]-oxazepin-11-yl)methyl]-3,5-dihydro-imidazo[4,5-d]pyridazin-4-one
317 mg 11-chloromethyl-dibenzo[b,f][1,4]oxazepin are added to 400 mg 2-[3-(tert.-butyloxycarbonylamino)-piperidin-1-yl]-3-(2-butyn-1-yl)-3,5-dihydro-imidazo[4,5-d]pyridazin-4-one and 276 mg potassium carbonate in 4 ml N,N-dimethylformamide. The reaction mixture is stirred for two hours at 80° C. For working up it is combined with water and the precipitate formed is suction filtered. The crude product is purified by chromatography over a silica gel column with methylene chloride/methanol (100:0 to 70:30) as eluant.

reactant | 11-chloromethyl-dibenzo[b,f][1,4]oxazepin | 317 mg | ClCC1=NC2=C(OC3=C1C=CC=C3)C=CC=C2 | C14H10ClNO
reactant | 2-[3-(tert.-butyloxycarbonylamino)-piperidin-1-yl]-3-(2-butyn-1-yl)-3,5-dihydro-imidazo[4,5-d]pyridazin-4-one | 400 mg | C(C)(C)(C)OC(=O)NC1CN(CCC1)C=1N(C2=C(C=NNC2=O)N1)CC#CC | C19H26N6O3
reactant | potassium carbonate | 276 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
product | 2-[3-(tert.-butyloxycarbonylamino)-piperidin-1-yl]-3-(2-butyn-1-yl)-5-[(dibenzo[b,f][1,4]-oxazepin-11-yl)methyl]-3,5-dihydro-imidazo[4,5-d]pyridazin-4-one | C(C)(C)(C)OC(=O)NC1CN(CCC1)C=1N(C2=C(C=NN(C2=O)CC2=NC3=C(OC4=C2C=CC=C4)C=CC=C3)N1)CC#CC | C33H35N7O4
